US07851471B2
To a solution of 2-(4-phenylpiperazine-1-carbonyloxymethyl)-morpholine-4-carboxylic acid tert-butyl ester (6.67 g, 16.5 mmol) in MeOH (10 mL) was added 2M HCl in Et2O solution (16.5 mL, 32.9 mmol). The brown solution was stirred at room temperature overnight. The reaction mixture was concentrated in vacuo. The residue purified by reverse phase column chromatography (LiChroprep RP-18, 40-63 μm, 460×26 mm (100 g), 30 mL/min, gradient 0% to 15% (over 75 min) MeOH in water with 0.1% TFA). The pure sample was stirred in a 4M aq HCl solution (20 mL) overnight before being concentrated in vacuo. The resulting yellow oil was washed with heptane, concentrated in vacuo and dried in a vacuum oven overnight to give the morpholin-2-ylmethyl 4-phenylpiperazine-1-carboxylate dihydrochloride salt (4.72 g, 76%) as a pale yellow solid.

reactant | 2-(4-phenylpiperazine-1-carbonyloxymethyl)-morpholine-4-carboxylic acid tert-butyl ester | 16.5 mmol, 6.67 g | C(C)(C)(C)OC(=O)N1CC(OCC1)COC(=O)N1CCN(CC1)C1=CC=CC=C1 | C21H31N3O5
reactant | HCl | 2M | Cl | ClH
reactant | Et2O | 32.9 mmol, 16.5 mL | CCOCC | C4H10O
solvent | MeOH | 10 mL | CO | CH4O
product | morpholin-2-ylmethyl 4-phenylpiperazine-1-carboxylate dihydrochloride salt | 4.72 g, 76% | Cl.Cl.C1(=CC=CC=C1)N1CCN(CC1)C(=O)OCC1CNCCO1 | InChI=1S/C16H23N3O3.2ClH/c20-16(22-13-15-12-17-6-11-21-15)19-9-7-18(8-10-19)14-4-2-1-3-5-14;;/h1-5,15,17H,6-13H2;2*1H
